US08236806B2
1-(4-methoxyphenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 17)
64 mg (93%) of target compound was obtained by using a method same as in Example 1 by using 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal (46 mg, 0.166 mmol), 1-(4-methoxyphenyl)piperazine (40 mg, 0.151 mmol), DIPEA (0.026 mL, 0.151 mmol) and NaBH(OAc)3 (96 mg, 0.453 mmol).

reactant | 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal | 0.166 mmol, 46 mg | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C18H16N2O
reactant | 1-(4-methoxyphenyl)piperazine | 0.151 mmol, 40 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | DIPEA | 0.151 mmol, 0.026 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.453 mmol, 96 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(4-methoxyphenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCCC1=NN(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H32N4O
